US04140696
4-Acetyl-3-amino-2-(o-tolyl)-5-methylpyrrole
Starting from 2-amino-2-(o-tolyl)acetonitrile and acetylacetone, the open-chain intermediate compound is obtained, b.p. 120° C./0.2 mm Hg. The title compound is obtained in a 77% overall yield, m.p. 258° C. (from methanol).

reactant | 2-amino-2-(o-tolyl)acetonitrile | NC(C#N)C1=C(C=CC=C1)C | C9H10N2
reactant | acetylacetone | C(C)(=O)CC(C)=O | C5H8O2
solvent | methanol | CO | CH4O
product | 4-Acetyl-3-amino-2-(o-tolyl)-5-methylpyrrole | C(C)(=O)C=1C(=C(NC1C)C1=C(C=CC=C1)C)N | C14H16N2O
